US07179839B2
4-FLUOR-N-(5-HYDROXY-INDAN-2-YL)-BENZAMIDE
1.45 g (5.08 mmol) 4-fluoro-N-(5-methoxy-indan-2-yl)-benzamide were dissolved in 50 ml of dichloromethane, 13 ml (12.7 mmol) boron tribromide (1M in dichloromethane) were added, the whole was stirred for 30 min at RT. The resulting mixture was poured onto 200 ml of ice water, the organic phase was washed twice with water, dried, evaporated and the residue obtained was subjected to chromatography on silica with a mixture of dichloromethane/methanol 98:2.

reactant | 4-fluoro-N-(5-methoxy-indan-2-yl)-benzamide | 5.08 mmol, 1.45 g | FC1=CC=C(C(=O)NC2CC3=CC=C(C=C3C2)OC)C=C1 | C17H16FNO2
reactant | boron tribromide | 12.7 mmol, 1M, 13 ml | B(Br)(Br)Br | BBr3
reactant | dichloromethane methanol | ClCCl.CO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-FLUOR-N-(5-HYDROXY-INDAN-2-YL)-BENZAMIDE | FC1=CC=C(C(=O)NC2CC3=CC=C(C=C3C2)O)C=C1 | C16H14FNO2
